US05207947
Synthesis of 1-monofluoro-2-decyl 4-octyloxybiphenyl-4'-carboxylate
To a solution of optically active 1-monofluoro-2-decyl alcohol (0.1 g) and triethylamine (0.06 g) in methylene chloride (10 ml) was slowly added under ice cooling a solution of 4-n-octyloxybiphenyl-4'-carboxylic acid chloride (0.22 g) in methylene chloride (10 ml). The mixture was left to stand until it reached room temperature and stirred overnight. The mixture was poured in water and extracted with methylene chloride. The solution extracted layer was washed with dilute aqueous hydrochloric acid solution, water, 1N aqueous sodium carbonate solution and water, in this order, and dehydrated over anhydrous magnesium sulfate. After the solution was distilled under reduced pressure to remove the solvent, purification was made by silica-gel column chromatography to obtain the titled compound (0.16 g).

reactant | 1-monofluoro-2-decyl alcohol | 0.1 g | FCC(CCCCCCCC)O | C10H21FO
reactant | triethylamine | 0.06 g | C(C)N(CC)CC | C6H15N
reactant | 4-n-octyloxybiphenyl-4'-carboxylic acid chloride | 0.22 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C21H25ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-monofluoro-2-decyl 4-octyloxybiphenyl-4'-carboxylate | 0.16 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC(CF)CCCCCCCC | C31H45FO3
